US03978140
A 22-liter, 4-necked glass reaction vessel equipped as described in Example 1 was charged with 624 grams (15.8 moles plus 5% excess) of sodium borohydride and 3620 grams (20 moles) of o-nitrophenylacetic acid and flushed for 0.5 hour with dry nitrogen. The reaction vessel was cooled to 0°C using an external dry ice/isopropyl alcohol bath as 10 liters of tetrahydrofuran was added dropwise over a 2 hour period. Boron trifluoride diethyl etherate (2.58 liters, 21 moles) was then added dropwise over a 4 hour period while maintaining a reaction temperature of 0°-10°C. The reaction mixture was then stirred for 12 hours at 20°-25°C. Isolation of the product as described in Example 1 gave 2450 grams (73% yield) of o-nitrophenethyl alcohol as a clear, light-orange liquid, bp 112°C/0.15 mm, n20D 1.5644.

reactant | sodium borohydride | 15.8 moles, 624 grams | [BH4-].[Na+]
reactant | o-nitrophenylacetic acid | 20 moles, 3620 grams | [N+](=O)([O-])C1=C(C=CC=C1)CC(=O)O | C8H7NO4
reactant | Boron trifluoride diethyl etherate | 21 moles, 2.58 liters | B(F)(F)F.CCOCC
product | o-nitrophenethyl alcohol | 2450 grams, 73% yield | [N+](=O)([O-])C1=C(CCO)C=CC=C1 | C8H9NO3
